US07009056B2
1-Benzyl-3-(5-methoxycarbonyl-2-furyl)-1H-indazole
A solution of 3-(5-methoxycarbonyl-2-furyl)-1H-indazole (2.0 g, 8.3 mmol) and benzyl bromide (2.5 mL, 21.0 mmol) in THF (100 mL) was added dropwise via dropping funnel to a suspension of sodium hydride (60% dispersion in oil: 0.50 g, 12.5 mmol) in THF (200 mL). The resultant mixture was stirred at room temperature for 20 h. The mixture was poured onto brine and the layers separated. The aqueous layer was extracted three times with ether and then the combined organic material was washed with saturated aqueous NaHCO3 solution, dried (MgSO4) and concentrated under reduced pressure. The residue was chromatographed on silica (EtOAc:cyclohexane 1:4) and then the product was recrystallised (EtOAc/hexane) to give a yellow solid: mp 137–138° C.; MS (EI) M+ 332; 1H-NMR (CDCl3) 3.97 (s, 3H), 5.67 (s, 2H), 7.03 (d, 1H, J=3.7 Hz), 7.22–7.43 (m, 9H), 8.27 (d, 1H, J=8.1 Hz); Anal. (C20H16N2O3) C, calcd 72.28; found 71.92, H, calcd 4.85; found 4.75, N, calcd 8.43; found 8.39.

reactant | 3-(5-methoxycarbonyl-2-furyl)-1H-indazole | 8.3 mmol, 2.0 g | COC(=O)C1=CC=C(O1)C1=NNC2=CC=CC=C12 | C13H10N2O3
reactant | benzyl bromide | 21.0 mmol, 2.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 12.5 mmol, 0.50 g | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(5-methoxycarbonyl-2-furyl)-1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)OC | C20H16N2O3
